US04647566
A solution of 2.6 g of ethyl 4-chloro-6-ethyl-5,6,7,8-tetrahydroquinoline-3-carboxylate in 30 ml n-butanol is treated with 1.38 g of 4-chlorophenylhydrazine at room temperature under nitrogen. After stirring at room temperature overnight, the reaction mixture is heated at reflux for 41/2 hours. The reaction mixture is cooled to room temperature, the precipitate is filtered off, washed with hexane and air-dried to yield a yellow solid. The crude product is dissolved in 30 ml 1N NaOH and extracted with ether. The aqueous layer is then treated with 1.6 g of NH4Cl. The precipitate which forms is filtered off, washed with water, and dried in a vacuum oven at 120° overnight to yield 2,3,6,7,8,9-hexahydro-2-p-chlorophenyl-8-ethylpyrazolo[4,3-c]quinolin-3-(5H)-one, m.p. 318°-320°.

reactant | ethyl 4-chloro-6-ethyl-5,6,7,8-tetrahydroquinoline-3-carboxylate | 2.6 g | ClC1=C(C=NC=2CCC(CC12)CC)C(=O)OCC | C14H18ClNO2
reactant | 4-chlorophenylhydrazine | 1.38 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | n-butanol | 30 ml | C(CCC)O | C4H10O
solvent | NaOH | 1N, 30 ml | [OH-].[Na+]
product | 2,3,6,7,8,9-hexahydro-2-p-chlorophenyl-8-ethylpyrazolo[4,3-c]quinolin-3-(5H)-one | ClC1=CC=C(C=C1)N1N=C2C(=CNC=3CCC(CC23)CC)C1=O | C18H18ClN3O
